* SugarEDA educational models, revision 1. CC0-1.0.
* Generic devices only; these are NOT vendor-qualified part models.
.model SUGAR_DIODE D(IS=2n N=1.8 RS=0.6 CJO=2p)
.model SUGAR_NPN NPN(IS=1e-14 BF=100 VAF=80)
.model SUGAR_PNP PNP(IS=1e-14 BF=100 VAF=80)
.model SUGAR_NMOS NMOS(LEVEL=1 VTO=2 KP=1m LAMBDA=0.02)
.model SUGAR_PMOS PMOS(LEVEL=1 VTO=-2 KP=1m LAMBDA=0.02)
* Ideal finite-gain amplifier with explicit supply connections.
* No rail limiting, bandwidth, noise, or input common-mode model.
.subckt SUGAR_AMP INP INM VCC VEE OUT
RIN INP INM 10Meg
RPOWER VCC VEE 100k
EGAIN INTERNAL 0 INP INM 100000
ROUT INTERNAL OUT 10
.ends SUGAR_AMP
* A portable two-port passive subcircuit used by integration tests.
.subckt SUGAR_FILTER IN OUT GND
R1 IN OUT 1k
C1 OUT GND 1u
.ends SUGAR_FILTER
